T1

.options savecurrents

Va 1 0 5.2111

R1 1 2 1.0063k

R2 2 3 2.0445k

Gb 5 3 (2,4) 7.13035

R5 5 4 3.049k

R3 2 4 3.0633k

R4 4 0 4.147k

R6 6 8 2.0030k

R7 8 7 1.0243k

Hc 4 7 V0 8.3609

Id 7 5 1.0106m

V0 0 6 0

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************"
echo "Operating point"
echo "********************"
*print v-sweep
*print @R6[i]

echo "op_tab"
print all
echo "op_end"

quit
.endc

.end







