T1

.options savecurrents

Va 1 0 5.21115954318

Id 7 5 1.01060327002m


R1 1 2 1.00630884619k

R2 2 3 2.04459046985k

R3 2 5 3.06334496076k

R4 4 5 4.14716400981k

R5 5 6 3.04909455334k

R6 0 7 2.00303133774k

R7 7 8 1.02434741967k


Hc 5 8 V0 8.36091910927k

Gb 6 3 (2,5) 7.13035015936m


V0 4 0 0

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************"
echo "Operating point"
echo "********************"
*print v-sweep
*print @R6[i]
echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end







